US07557103B2
A. 1,5-Dimethyl-1H-indole-2-boronic Acid
To a 0° C. solution of 1,5-dimethyl-1H-indole (1.10 g, 7.58 mmol) and THF (15 mL) is added 1.6M n-Bu—Li (5.7 mL, 9.09 mmol) the solution is warmed to ambient temperature and stirred for 1 h. The solution is cooled to 0° C. and B(OMe)3 (1.01 mL, 9.09 mmol) is added. The solution is warmed to ambient temperature and stirred overnight. 1M HCl (20 mL) is added and the pH adjusted to 7 with 1M NaOH. The aqueous phase is extracted with EtOAc (2×30 mL). The combined organic layers are washed with brine, dried over MgSO4, filtered and concentrated. The solids are triturated with hexane, and recrystallized from toluene/hexane to furnish the title compound (0.17 g, 0.90 mmol, 12%). 1H NMR (CDCl3), δ 2.38 (s, 3H), 4.08 (s, 3H), 6.91 (s, 1H), 6.99 (d, J=8.9 Hz, 1H), 7.29-7.38 (m, 2H) ppm. LC/MS (m/z): calcd. for C10H12BNO2 (M+H)+: 190.1. found: 146.1.

reactant | 1,5-dimethyl-1H-indole | 7.58 mmol, 1.10 g | CN1C=CC2=CC(=CC=C12)C | C10H11N
reactant | n-Bu—Li | 9.09 mmol, 1.6M, 5.7 mL | C(CCC)[Li]
reactant | B(OMe)3 | 9.09 mmol, 1.01 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 1M, 20 mL | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,5-Dimethyl-1H-indole-2-boronic Acid | 0.90 mmol, 0.17 g, 12% | CN1C(=CC2=CC(=CC=C12)C)B(O)O | C10H12BNO2
